US05106865
L-Selectride (45 μl of a 1.0M solution in tetrahydrofuran) was added to a 2-ml reaction vial at -78° C. containing 2.0 mg of radarin A in 1.0 ml of dry tetrahydrofuran. After the mixture was stirred for 30 min at -78° C., water (50 μl) was added and the mixture was allowed to warm to room temperature (15 min). Anhydrous magnesium sulfate was added and the solution was then passed through a small silica column. The product obtained upon evaporation of the solvent was redissolved in 1.0 ml methylene chloride and extracted with water (5×1 ml). The organic phase was dried and evaporated to yield radarin B (1.9 mg, 95% yield) which was identical to the natural product based on 1H NMR and HPLC analysis.

reactant | L-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | radarin A | 2.0 mg | C[C@@H]1CC[C@]2([C@@H]3CCC(=O)[C@@H]([C@]3(CC[C@@H]2[C@@]1(C)C4=CNC5=C4C=CC(=C5)O)C)C)C | C27H37NO2
reactant | water | 50 μl | O | H2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 1.0 ml | C(Cl)Cl | CH2Cl2
product | radarin B | 1.9 mg, 95% yield | C[C@@H]1CC[C@]2([C@@H]3CC[C@@H]([C@@H]([C@]3(CC[C@@H]2[C@@]1(C)C4=CNC5=C4C=CC(=C5)O)C)C)O)C | C27H39NO2
